US05597826
7-(3-Fluorophenyl)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 41 from 7-trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene (0.25 g, 0.67 mmol), 3-fluoro-1-bromobenzene (0.13 g, 0.74 mmol), triethylamine (0.45 mL, 3.23 mmol), lithium chloride (0.088 g, 2.07 mmol), and bis (triphenylphosphine) palladium chloride (0.025 g, 0.036 mmol) in DMF (12.5 mL) with a heating time of 2 hours at 120 to 130° C. The product obtained was 0.13 g (59%) in yield. A sample was obtained by recrystallization from ether/hexane for analysis: mp 116°-116.5° C. Analysis calculated for C22H21FN2 : C, 79.49; H, 6.37; N, 8.43. Found: C, 79.07; H, 6.46; N, 8.66.

reactant | 7-trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene | 0.67 mmol, 0.25 g | C[Sn](C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C)(C)C
reactant | 3-fluoro-1-bromobenzene | 0.74 mmol, 0.13 g | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | lithium chloride | 2.07 mmol, 0.088 g | [Cl-].[Li+]
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
catalyst | bis (triphenylphosphine) palladium chloride | 0.036 mmol, 0.025 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether hexane | CCOCC.CCCCCC
product | 7-(3-Fluorophenyl)-1-(4-methyl-1-piperazinyl)-naphthalene | FC=1C=C(C=CC1)C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C21H21FN2
